US07875618B2
1-(2-Chloro-phenyl)-3,4-dimethyl-7-(3-nitrobenzyloxy)-imidazo(1,5-a)quinoxaline
1.5 g 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline, 3.36 g Caesium carbonate, 80 mL N,N-dimethylformamide, and 9 mL water were stirred for 10 min followed by addition of 1.3 g 3-nitro-benzylbromide. After 3 h stirring at 120° C. the reaction mixture was given into 250 mL water, filtered off, washed with water, dried under reduced pressure.

reactant | 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline | 1.5 g | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)O)C | C18H14ClN3O
reactant | Caesium carbonate | 3.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
reactant | 3-nitro-benzylbromide | 1.3 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | water | 250 mL | O | H2O
solvent | water | 9 mL | O | H2O
product | 1-(2-Chloro-phenyl)-3,4-dimethyl-7-(3-nitrobenzyloxy)-imidazo(1,5-a)quinoxaline | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)OCC2=CC(=CC=C2)[N+](=O)[O-])C | C25H19ClN4O3
